US05874421
B. Synthesis of [Manganese(II)dichloro(2-Cyclohexylethyl-1,4,7,10,13-pentaazacyclopentadecane)]
A solution of 2-cyclohexylmethyl-1,4,7,10,13-pentaazacyclopentadecane prepared as in Example 7A (0.43 g, 1.4 mmole) and anhydrous manganese(II) chloride (0.17 g, 1.4 mmole) in anhydrous methanol (30 ml) was refluxed under a dry nitrogen atmosphere overnight. The solution was filtered and concentrated in vacuo to a volume of 3 ml. Ethyl ether (20 ml) was added. Upon cooling to 0° C., 0.39 g (65% yield) of the product was obtained as a white solid: FAB mass spectrum (NBA) m/z (relative intensity) 401/403 [(M-Cl)+, 100/33]: Anal. Calcd. for C17H37Cl2MnN5 : C, 46.69; H, 8.53; N, 16.09. Found: C, 45.87; H, 8.40; N, 15.55.

reactant | 2-cyclohexylmethyl-1,4,7,10,13-pentaazacyclopentadecane | C1(CCCCC1)CC1NCCNCCNCCNCCNC1 | C17H37N5
reactant | manganese(II) chloride | 1.4 mmole, 0.17 g | [Cl-].[Mn+2].[Cl-]
reactant | methanol | 30 ml | CO | CH4O
product | Manganese(II)dichloro(2-Cyclohexylethyl-1,4,7,10,13-pentaazacyclopentadecane) | 0.39 g, 65% yield | ClC1(N(CCNCCNCCNCCNC1)CCC1CCCCC1)Cl.[Mn+2] | InChI=1S/C18H37Cl2N5.Mn/c19-18(20)16-24-12-11-22-8-7-21-9-10-23-13-15-25(18)14-6-17-4-2-1-3-5-17;/h17,21-24H,1-16H2;/q;+2
